US04939241
To a solution of methyl 2-(N-benzyloxycarbonylamino)3-hydroxy-4,4,4-trifluorobutyrate (3.3 g) in methylene chloride (33 ml) was added dihydropyran (1.1 ml) and pyridinium p-toluenesulfonate (251 mg) at room temperature. After stirring for 2 hours at room temperature, the solvent was distilled off and the residue was diluted with ethyl acetate, washed successively with aqueous sodium hydrogen carbonate and brine. After drying over sodium sulfate, the ethyl acetate was evaporated and the residue was diluted with methanol (20 ml). To the methanol solution was added 1N sodium hydroxide (10 ml) and the mixture was stirred for 2 hours at room temperature. The solvent distilled off and the residue was washed with ethyl acetate. The aqueous layer was acidified with citric acid to pH 4 and extracted with ethyl acetate (2 times). The combined ethyl acetate extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was crystallized with a mixture of diisopropylether and hexane to give 2-(N-benzyloxycarbonylamino)-3-(2-tetrahydropyranyloxy)- 4,4,4,-trifluorobutyric acid (1 g).

reactant | methyl 2-(N-benzyloxycarbonylamino)3-hydroxy-4,4,4-trifluorobutyrate | 3.3 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)C(C(F)(F)F)O | C13H14F3NO5
reactant | dihydropyran | 1.1 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 251 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 33 ml | C(Cl)Cl | CH2Cl2
product | 2-(N-benzyloxycarbonylamino)-3-(2-tetrahydropyranyloxy)- 4,4,4,-trifluorobutyric acid | 1 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C(C(F)(F)F)OC1OCCCC1 | C17H20F3NO6
